### PR TITLE
Soundness for the extension of judgmental equality

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

File: theories/Core/Soundness/EqualityCases.v [hunk 1]
```diff
@@ -92,6 +95,718 @@ Qed.
...
+  gen_presups.
+  erewrite wf_exp_eq_eqrec_Aσwkwkwkτ2; mauto 3.
+  eapply wf_exp_eq_conv'; [eapply wf_exp_eq_sub_compose with (A:={{{ Type@i }}}) (Γ':={{{Γ, A[σ]}}})|]; mauto 4.
+  econstructor; mauto 3.
+  eapply wf_exp_eq_typ_sub' with (Δ:=Γ); mauto 4.
+  econstructor; mauto 4.
+  econstructor; mauto 3.
+Qed.
+
+Lemma glu_rel_eq_eqrec_synprop_gen : forall {Γ σ Δ i A},
```
Comment (HuStmpHrrr) [inline theories/Core/Soundness/EqualityCases.v:297]: is it used somewhere else?

Comment (jiangsy) [reply theories/Core/Soundness/EqualityCases.v:297]: it's adapted from `presup_exp_eq_eqrec_sub_right` in Presup.v, but I think we can change that to expose more intermediate consequences in a separate PR

File: theories/Core/Semantic/Evaluation/Tactics.v [hunk 2]
```diff
@@ -12,4 +12,6 @@ Ltac simplify_evals :=
           || match_by_head eval_eqrec ltac:(fun H => directed dependent destruction H)
           || match_by_head eval_sub ltac:(fun H => directed dependent destruction H));
   functional_eval_rewrite_clear;
-  clear_dups.
+  clear_dups;
+  repeat (match_by_head eval_exp ltac:(fun H => simpl in H)) 
+  .
```
Comment (Ailrun) [inline theories/Core/Semantic/Evaluation/Tactics.v:17]: Why do we need this?

File: theories/Core/Soundness/NatCases.v [hunk 3]
```diff
@@ -280,7 +280,7 @@ Proof.
   apply_predicate_equivalence.
   clear_dups.
   unfold univ_glu_exp_pred' in *.
-  destruct_conjs.
+  destruct_all.
```
Comment (Ailrun) [inline theories/Core/Soundness/NatCases.v:283]: Why do you also want to destruct disjunctions?

File: theories/Core/Soundness/TermStructureCases.v [hunk 4]
```diff
@@ -54,7 +54,7 @@ Proof.
   - assert {{ Γ ⊩ #n : A }} as Hn by mauto.
     assert (exists i, {{ Γ ⊢ A : Type@i }}) as [j] by (gen_presups; mauto 3).
     invert_glu_rel_exp Hn.
-    rename x into k.
+    rename i0 into k.
```
Comment (Ailrun) [inline theories/Core/Soundness/TermStructureCases.v:57]: it might be better to rename it based on the shape i0 is used in.

**Review by Ailrun — COMMENTED** [review]
First review

File: theories/Core/Soundness/TermStructureCases.v (hunk 4 above)
Comment (jiangsy) [reply theories/Core/Soundness/TermStructureCases.v:57]: in this specific case, I think it is a bit tedious to `match`, and does not bring some extra robustness to the proof script

File: theories/Core/Soundness/EqualityCases.v [hunk 5]
```diff
@@ -92,6 +95,690 @@ Qed.
...
+    {{ Γ, A[σ] ⊢ BR[q σ] ≈ BR' : B[Id,,#0,,refl A[Wk] #0][q σ] }} ->
+    {{ Γ, A[σ], A[σ][Wk], (Eq A[Wk∘Wk] #1 #0)[q (q σ)] ⊢ B[q (q (q σ))] ≈ B' : Type@j }} ->
+    {{ Γ ⊢ eqrec N as Eq A M1 M2 return B | refl -> BR end[σ] ≈ 
+           eqrec N' as Eq A' M1' M2' return B' | refl -> BR' end : B[Id,,M1,,M2,,N][σ] }}.
+Proof.
+  intros.
+  assert {{ Γ ⊢ B[Id,,M1,,M2,,N][σ] ≈ B[σ,,M1[σ],,M2[σ],,N[σ]] : Type@j }}. {
+    symmetry. eapply exp_eq_compose_typ_twice; mauto 3 using wf_exp_eq_σM1M2N.
+  }
+  transitivity {{{ eqrec N[σ] as Eq A[σ] M1[σ] M2[σ] return B[q (q (q σ))] | refl -> BR[q σ] end }}}; mauto 3.
```
Comment (Ailrun) [inline theories/Core/Soundness/EqualityCases.v:762]: Why do you need `mauto 3` at the end when you have 2 branches anyway?

File: theories/Core/Soundness/EqualityCases.v [hunk 6]
```diff
@@ -92,6 +95,690 @@ Qed.
...
+    {{ Γ ⊢ M1[σ] ≈ M1' : A[σ] }} ->
+    {{ Γ ⊢ M2[σ] ≈ M2' : A[σ] }} ->
+    {{ Γ ⊢ N[σ] ≈ N' : Eq A[σ] M1[σ] M2[σ]}} ->
+    {{ Γ, A[σ] ⊢ BR[q σ] ≈ BR' : B[Id,,#0,,refl A[Wk] #0][q σ] }} ->
+    {{ Γ, A[σ], A[σ][Wk], (Eq A[Wk∘Wk] #1 #0)[q (q σ)] ⊢ B[q (q (q σ))] ≈ B' : Type@j }} ->
+    {{ Γ ⊢ eqrec N as Eq A M1 M2 return B | refl -> BR end[σ] ≈ 
+           eqrec N' as Eq A' M1' M2' return B' | refl -> BR' end : B[Id,,M1,,M2,,N][σ] }}.
+Proof.
+  intros.
+  assert {{ Γ ⊢ B[Id,,M1,,M2,,N][σ] ≈ B[σ,,M1[σ],,M2[σ],,N[σ]] : Type@j }}. {
```
Comment (Ailrun) [inline theories/Core/Soundness/EqualityCases.v:759]: Formatting? (The `{` part)

File: theories/Core/Soundness/EqualityCases.v [hunk 7]
```diff
@@ -101,7 +788,402 @@ Lemma glu_rel_eq_eqrec : forall Γ A i M1 M2 B j BR N,
...
+        assert {{ Ψ ⊢ M2[σ∘τ] : A[σ∘τ] ® m2 ∈ glu_elem_top i a }} as [] by (eapply realize_glu_elem_top with (El:=El); eauto).
+        assert {{ Ψ , A[σ∘τ] ⊢ BR[q (σ∘τ)] : B[Id,,#0,,refl A[Wk] #0][q (σ∘τ)] ® m5 ∈ glu_elem_top j m }} as [] by (eapply realize_glu_elem_top with (El:=El6); eauto).
+        assert {{ Ψ, A[σ∘τ], A[σ∘τ][Wk], (Eq A[Wk∘Wk] #1 #0)[q (q (σ∘τ))] ⊢ B[q (q (q (σ∘τ)))] ® glu_typ_top j m4 }} as [] by (eapply realize_glu_typ_top; eauto).
+        assert {{ Ψ ⊢ eqrec N as Eq A M1 M2 return B | refl -> BR end[σ][τ] ≈ eqrec N as Eq A M1 M2 return B | refl -> BR end[σ∘τ] : B[Id,,M1,,M2,,N][σ∘τ] }} by mauto 4.
+        assert {{ Ψ ⊢ B[Id,,M1,,M2,,N][σ][τ] ≈ B[Id,,M1,,M2,,N][σ∘τ] : Type@j }} as -> by mauto 3.
+        rewrite H152.
+        assert {{ Ψ ⊢ A[σ∘τ][Id] ≈ A[σ∘τ] : Type@i }} by mauto 3.
+        eapply (@wf_exp_eq_eqrec_cong_sub _ _ Γ i j); fold nf_to_exp; fold ne_to_exp; eauto.
+        * assert {{ Ψ ⊢ A[σ∘τ][Id] ≈ A0 : Type@i }} by mauto 3. 
+          transitivity {{{ A[σ∘τ][Id] }}}; mauto.
```
Comment (Ailrun) [inline theories/Core/Soundness/EqualityCases.v:1168]: Why do you need the assertion? Wouldn't `transitivity {{{ A[σ∘τ][Id] }}}; [mauto 3 | mauto].` (or if this is ok for performance, `transitivity {{{ A[σ∘τ][Id] }}}; mauto.`) be enough?

File: theories/Core/Soundness/EqualityCases.v [hunk 8]
```diff
@@ -101,7 +788,402 @@ Lemma glu_rel_eq_eqrec : forall Γ A i M1 M2 B j BR N,
...
+          assert {{ Ψ ⊢ (Eq A M1 M2)[σ∘τ] ≈ Eq A[σ∘τ] M1[σ∘τ] M2[σ∘τ] : Type@i }} by mauto 3.
+          assert {{ Ψ ⊢ (Eq A M1 M2)[σ∘τ][Id] ≈ (Eq A M1 M2)[σ∘τ] : Type@i }} by mauto 4.
+          eapply wf_exp_eq_conv' with (A:={{{ (Eq A M1 M2)[σ∘τ][Id] }}}); mauto 3. 
+          transitivity {{{ N[σ∘τ][Id] }}}; mauto 4.
+        * assert {{ Ψ , A[σ∘τ] ⊢ BR[q (σ∘τ)][Id] ≈ BR' : B[Id,,#0,,refl A[Wk] #0][q (σ∘τ)][Id]}} by mauto 4.
+          clear dependent Γ. clear dependent Δ. gen_presups. 
+          eapply wf_exp_eq_conv' with (A:={{{ B[Id,,#0,,refl A[Wk] #0][q (σ∘τ)][Id] }}}); mauto 3.
+          transitivity {{{ BR[q (σ∘τ)][Id] }}}; mauto 4.
+        * assert {{ Ψ, A[σ∘τ], A[σ∘τ][Wk], (Eq A[Wk∘Wk] #1 #0)[q (q (σ∘τ))] ⊢ B[q (q (q (σ∘τ)))][Id] ≈ B' : Type@j }} by mauto 4. 
+          transitivity {{{ B[q (q (q (σ∘τ)))][Id] }}}; mauto.
```
Comment (Ailrun) [inline theories/Core/Soundness/EqualityCases.v:1183]: Same for this

**Review by Ailrun — COMMENTED** [review]
One more pass

File: theories/Core/Completeness/EqualityCases.v [hunk 9]
```diff
@@ -440,47 +460,32 @@ Proof.
       do 2 (econstructor; mauto). mauto.
     + econstructor; mauto.
       econstructor; mauto.
-      eapply H17. auto.
-  - assert {{ Dom ρσ ↦ m1 ≈ ρ'σ ↦ m1' ∈ env_relΔA }} by (unfold env_relΔA; mauto 3).
+      eapply H20. auto.
```
Comment (Ailrun) [inline theories/Core/Completeness/EqualityCases.v:463]: Here, does `eauto` not work?

Comment (Ailrun) [reply theories/Core/Completeness/EqualityCases.v:445]: Actually, I will update this part (`intuition` works).

File: theories/Core/Soundness/EqualityCases.v (hunk 1 above)
Comment (jiangsy) [reply theories/Core/Soundness/EqualityCases.v:120]: shall we try to modify `presup_exp_eq_eqrec_sub_right` directly instead of making a copy as `glu_rel_eq_eqrec_synprop_gen`?
